US07943609B2
A 1-L, three-necked, Morton flask, equipped with overhead stirrer, was charged with 7-bromo-N4-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)quinoline-3,4-diamine (33.4 g, 81.0 mmol) and 1,2-dichloroethane (400 mL) and the mixture was stirred under N2. Ethyl 2-chloroethanimidoate hydrochloride (29.1 g, 184.0 mmol) was then added in portions and the reaction mixture was heated to 70° C. for 3 days. The reaction mixture was then cooled to ambient temperature and treated with CHCl3 (500 mL) and saturated aqueous NaHCO3 solution (700 mL). The layers were separated and the organic portion was concentrated under reduced pressure to give 38 g of 7-bromo-1-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline as a golden solid.

reactant | 7-bromo-N4-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)quinoline-3,4-diamine | 81.0 mmol, 33.4 g | BrC1=CC=C2C(=C(C=NC2=C1)N)N[C@H](CO[Si](C)(C)C(C)(C)C)C | C18H28BrN3OSi
reactant | 1,2-dichloroethane | 400 mL | ClCCCl | C2H4Cl2
reactant | Ethyl 2-chloroethanimidoate hydrochloride | 184.0 mmol, 29.1 g | Cl.ClCC(OCC)=N
reactant | NaHCO3 | 700 mL | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-1-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-(chloromethyl)-1H-imidazo[4,5-c]quinoline | 38 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3[C@H](CO[Si](C)(C)C(C)(C)C)C)CCl | C20H27BrClN3OSi
